US05342846
trans 3-Hydroxy-4-(1,2,3-triazol-1-yl)-1-N-(tertbutoxycarbonyl)pyrrolidine
A solution of trans 3-hydroxy-4-azido-1-N-(tert.-butoxy carbonyl)pyrrolidine (3.8 g, 17 mmol) in dry acetone (50 ml) was heated at 75°-80° C. for 40 hrs. After releasing the excess of acetylene, the reaction mixture was concentrated and the residue was purified on silica gel using ethyl acetate as eluant. Yield 3.66 g (87%) m.p. 91-93° C.; 1H NMR (CDCl3) δ: 1.46 (S, 9H), 3.25-4.25 (m, 5H), 4.83 (m, 1H), 7.63 (S, 1H), 7.70 (S, 1H).

reactant | trans 3-hydroxy-4-azido-1-N-(tert.-butoxy carbonyl)pyrrolidine | 17 mmol, 3.8 g | O[C@@H]1CN(C[C@H]1N=[N+]=[N-])C(=O)OC(C)(C)C | C9H16N4O3
reactant | acetylene | C#C | C2H2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | trans 3-Hydroxy-4-(1,2,3-triazol-1-yl)-1-N-(tertbutoxycarbonyl)pyrrolidine | O[C@@H]1CN(C[C@H]1N1N=NC=C1)C(=O)OC(C)(C)C | C11H18N4O3
